US08871756B2
N-[3-(Aminomethyl)oxetan-3-yl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
To a solution of N-[(3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}oxetan-3-yl)methyl]-2,2,2-trifluoroacetamide (190 mg, 0.355 mmol) in methanol (15 mL) was added an aqueous solution of potassium carbonate (197 mg, 1.42 mmol, dissolved in 2 mL of water). After being stirred at room temperature overnight, the resulting mixture was concentrated in vacuo to remove methanol. The residue was diluted with water (5 mL) and extracted with dichloromethane (15 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by preparative HPLC to give 23 mg of the desired product as a white solid (yield was 14.8%). MS obsd. (ESI+) [(M+H)+] 439, 1H NMR (400 MHz, CD3OD) δ ppm 7.98-7.96 (m, 1 H), 7.58-7.56 (d, J=6.8 Hz, 1 H), 7.44-7.40 (m, 2 H), 7.32-7.30 (t, 1 H), 7.19 (m, 2 H), 5.99 (s, 1 H), 5.54 (s, 1 H), 4.98-4.97 (d, J=6.0, 4 H), 4.64-4.63 (m, 3 H), 3.51 (s, 2 H), 3.30 (s, 2 H), 2.34 (s, 3 H).

reactant | N-[(3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}oxetan-3-yl)methyl]-2,2,2-trifluoroacetamide | 0.355 mmol, 190 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC2(COC2)CNC(C(F)(F)F)=O)C)=O | C25H25F3N4O4S
reactant | potassium carbonate | 1.42 mmol, 2 mL, 197 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 mL | CO | CH4O
product | N-[3-(Aminomethyl)oxetan-3-yl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | 23 mg, yield was 14.8% | NCC1(COC1)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C23H26N4O3S
